US09422215B2
Reaction of 4-Methyl Catechol
4-Methyl catechol (25 mg, 2×10−4 mol) and wet Raney Ni 4200 (12 mg, 2×10−4 mol, 100 mol %) is weighed into a reaction flask under argon. Degassed i-PrOH (5 mL) is added and the flask is capped with a rubber septa and the mixture is heated (80° C.). The reaction is run for 24 hours and the reaction mixture is cooled. Nickel was removed with a magnet. Concentration gave 20 mg of a reaction mixture which is, according to analysis by HNMR, a complex mixture of mainly, 2-hydroxy-4-methyl-Cyclohexanone; 2-hydroxy-5-methyl-Cyclohexanone; 4-methyl-1,2-Cyclohexanediol. The aromatic ring was saturated.

reactant | 2-hydroxy-4-methyl-Cyclohexanone | OC1C(CCC(C1)C)=O | C7H12O2
reactant | 2-hydroxy-5-methyl-Cyclohexanone | OC1C(CC(CC1)C)=O | C7H12O2
reactant | 4-methyl-1,2-Cyclohexanediol | CC1CC(C(CC1)O)O | C7H14O2
product | 4-Methyl Catechol | CC=1C=C(C(O)=CC1)O | C7H8O2
